US07060827B2
2,4-Dichloro-5-fluoropyrimidine (75 mg, 0.45 mmol) was dissolved in a mixture of MeOH (2 ml) and H2O (0.2 ml). 4-tert-butoxycarbonylaminoaniline (374 mg, 1.8 mmol) was added and the mixture was refluxed for 24 hours (70° C. oil-bath temperature). The mixture was cooled to 22° C., concentrated to dryness under reduced pressure and subjected to column chromatography on silica gel (CHCl3-Acetone, 9:1) to give N2,N4-bis[4-(tert -butoxycarbonylamino)phenyl]-5-fluoro-2,4-pyrimidinediamine. 1H NMR (DMSO-d6+CD3OD): δ 7.96 (d, 1H, J=3.5 Hz), 7.63 (d, 2H, J=8.8 Hz), 7.49 (d, 2H, J=8.8 Hz), 7.37 (d, 2H, J=8.8 Hz), 7.24 (d, 2H, J=8.8 Hz), 1.45 (s, 9H), 1.43 (s, 9H); LCMS: purity: 97.9%; MS (m/e): 511.04 (M+, 100).

reactant | 2,4-Dichloro-5-fluoropyrimidine | 0.45 mmol, 75 mg | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 4-tert-butoxycarbonylaminoaniline | 1.8 mmol, 374 mg | C(C)(C)(C)OC(=O)NC1=CC=C(N)C=C1 | C11H16N2O2
solvent | MeOH | 2 ml | CO | CH4O
solvent | H2O | 0.2 ml | O | H2O
product | N2,N4-bis[4-(tert -butoxycarbonylamino)phenyl]-5-fluoro-2,4-pyrimidinediamine | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)NC(=O)OC(C)(C)C)F | C26H31FN6O4
